US06127374
Phenol (1.89 g, 20 mmol) was added to a slurry of hexane-washed NaH (60% oil suspension, 820 mg, 20.5 mmol) in DMSO (20 mL), stirred under nitrogen at 20° C., producing strong gas evolution. After 30 minutes, 1-fluoro-4-nitrobenzene (2.82 g, 20 mmol) was added dropwise to the light grey slurry. After about 10 minutes, the reaction mixture became orange and quite strongly exothermic, and a lot of gas was evolved. After 2 hours, the reaction mixture was poured onto ice-water (200 mL), and the solid was collected by Buchner filtration, rinsed with water (2×50 mL), and air dried to give 4-nitrodiphenyl ether (3.945 g, 91.6%) as dull yellow crystals.

reactant | Phenol | 20 mmol, 1.89 g | C1(=CC=CC=C1)O | C6H6O
reactant | hexane | CCCCCC | C6H14
reactant | NaH | 20.5 mmol, 820 mg | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 20 mmol, 2.82 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4-nitrodiphenyl ether | 3.945 g, 91.6% | C1=CC=C(C=C1)OC2=CC=C(C=C2)[N+](=O)[O-] | C12H9NO3
